US09035064B2
Synthesis of 5-chloro-N-(4-methyl-1,2,5-oxadiazol-3-yl)-3-(trifluoromethyl)pyridine-2-carboxamide (Table example No. 3-41)
300 mg (1.33 mmol) of 5-chloro-3-(trifluoromethyl)pyridine-2-carboxylic acid and 132 mg (1.33 mmol) of 4-methyl-1,2,5-oxadiazol-3-amine are dissolved at RT in 10 ml of CH2Cl2, and 0.19 ml (1.33 mmol) of triethylamine, 32 mg (0.27 mmol) of DMAP and 1.27 g (2.00 mmol) of 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (50% solution in THF) are added. The reaction mixture is stirred at RT for 20 h and then washed twice with 10 ml each time of water. The organic phase is dried over Na2SO4 and concentrated. The residue is purified by column chromatography (silica gel, heptane/ethyl acetate). Yield: 250 mg (61%).

reactant | 5-chloro-3-(trifluoromethyl)pyridine-2-carboxylic acid | 1.33 mmol, 300 mg | ClC=1C=C(C(=NC1)C(=O)O)C(F)(F)F | C7H3ClF3NO2
reactant | 4-methyl-1,2,5-oxadiazol-3-amine | 1.33 mmol, 132 mg | CC=1C(=NON1)N | C3H5N3O
reactant | triethylamine | 1.33 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 2.00 mmol, 1.27 g | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.27 mmol, 32 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-chloro-N-(4-methyl-1,2,5-oxadiazol-3-yl)-3-(trifluoromethyl)pyridine-2-carboxamide | ClC=1C=C(C(=NC1)C(=O)NC1=NON=C1C)C(F)(F)F | C10H6ClF3N4O2
